US05082943
Preparation of 2-(2-methylaminobenzylsulfinyl)-4,5,6,7-tetrahydro-1H-benzimidazole
To a solution of 1.20 g (4 mmol) of 2-(2-methylaminobenzylthio)-4,5,6,7-tetrahydro-1H-benzimidazole in chloroform was added under chilling with ice 0.85 g (4 mmol) of 80% m-chloroperbenzoic acid for 20 min. The 30 mixture was then stirred for 15 min. The chloroform portion was washed with a saturated aqueous NaHCO3 solution. The chloroform portion was then extracted with two portions of diluted aqueous NaOH solution. The aqueous extracts were combined, and an excess amount of aqueous NH4Cl was added to the combined extracts to precipitate a crystalline product. The crystalline products were collected by filtration and sufficiently washed. The thus obtained crude crystalline product was recrystallized from dichloromethane/hexane to give 0.32 g of the desired compound as a white crystalline product, yield 25%.

reactant | 2-(2-methylaminobenzylthio)-4,5,6,7-tetrahydro-1H-benzimidazole | 4 mmol, 1.20 g | CNC1=C(CSC2=NC3=C(N2)CCCC3)C=CC=C1 | C15H19N3S
reactant | m-chloroperbenzoic acid | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 2-(2-methylaminobenzylsulfinyl)-4,5,6,7-tetrahydro-1H-benzimidazole | 0.32 g, yield 25% | CNC1=C(CS(=O)C2=NC3=C(N2)CCCC3)C=CC=C1 | C15H19N3OS
